US07491720B2
A mixture of 2.70 g of 6-(chloromethyl)-N-thiazol-2-ylpyridin-2-amine, 4.00 g of 1-(3-chloro-2-fluorobenzoyl)piperazine obtained in Reference Example 1, 6.25 ml of N,N-diisopropylethylamine and 30 ml of dimethylformamide was stirred at 90° C. for 2 hours. The reaction solution was diluted with ethyl acetate and then washed with water and brine. The resulting organic layer was dried over magnesium sulfate and filtered, and the filtrate was concentrated. The resulting residue was purified by a silica gel column chromatography (eluent: chloroform to chloroform/methanol=10/1). Then, the obtained compound was suspended in ethyl acetate, and filtered and collected to give the title compound as a colorless amorphous substance.

reactant | 6-(chloromethyl)-N-thiazol-2-ylpyridin-2-amine | 2.70 g | ClCC1=CC=CC(=N1)NC=1SC=CN1 | C9H8ClN3S
reactant | 1-(3-chloro-2-fluorobenzoyl)piperazine | 4.00 g | ClC=1C(=C(C(=O)N2CCNCC2)C=CC1)F | C11H12ClFN2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N,N-diisopropylethylamine | 6.25 ml | C(C)(C)N(C(C)C)CC | C8H19N
